US06831186B2
To a solution of (3S)-4-(4-fluorophenoxy)-3-(3′,5′-dinitrobenzoyl)oxy-1-butyne (10.35 g, 98% ee, 27.6 mmol) in THF (115 mL), was added methanol (115 mL) and K2CO3 (0.58 g). After stirring for 3.5 hours, the reaction mixture was quenched with acetic acid (2 mL). The solvents were evaporated and the resulting slurry was filtered and the solid was washed with ether. The filtrate was concentrated and the filtration/ether wash sequence was repeated. Concentration gave 4.02 g of (3S)-4-(4-fluorophenoxy)-3-hydroxy-1-butyne (98% ee), a compound of formula (BB); 1H NMR (CDCl3) δ 2.56 (s, 1H), 4.10 (m, 2H), 4.78 (m, 1H), 6.85 (m, 2H), 7.0 (m, 2H).

reactant | (3S)-4-(4-fluorophenoxy)-3-(3′,5′-dinitrobenzoyl)oxy-1-butyne | 27.6 mmol, 10.35 g | FC1=CC=C(OC[C@H](C#C)OC(C2=CC(=CC(=C2)[N+](=O)[O-])[N+](=O)[O-])=O)C=C1 | C17H11FN2O7
reactant | methanol | 115 mL | CO | CH4O
reactant | K2CO3 | 0.58 g | C(=O)([O-])[O-].[K+].[K+]
solvent | THF | 115 mL | C1CCOC1 | C4H8O
product | (3S)-4-(4-fluorophenoxy)-3-hydroxy-1-butyne | 4.02 g | FC1=CC=C(OC[C@H](C#C)O)C=C1 | C10H9FO2
